US04708953
A solution of N-(1,2,2,2-tetrachloroethyl) salicylamide (30 g) in toluene (100 ml) is added dropwise at less than 10° C. to a solution of 2,2,2-trifluoroethanol (10 g) and pyridine (18.6 g) in toluene (150 ml). After the addition, the mixture is stirred at room temperature for a while, and the contents are washed with water and a 1% aqueous solution of sodium hydrogen carbonate. The toluene layer is dehydrated, and the toluene is evaporated under reduced pressure to give the desired N-[2,2,2,-trichloro-1-(2,2,2,-trifluoroethoxy) ethyl]-salicylamide (26 g) represented by the foregoing formula as a colorless viscous mass. This compound gradually solidifies and shows a melting point of 78° to 82° C.

reactant | N-(1,2,2,2-tetrachloroethyl) salicylamide | 30 g | ClC(C(Cl)(Cl)Cl)NC(C=1C(O)=CC=CC1)=O | C9H7Cl4NO2
reactant | 2,2,2-trifluoroethanol | 10 g | FC(CO)(F)F | C2H3F3O
reactant | pyridine | 18.6 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2,2,2,-trichloro-1-(2,2,2,-trifluoroethoxy) ethyl]-salicylamide | 26 g | ClC(C(OCC(F)(F)F)NC(C=1C(O)=CC=CC1)=O)(Cl)Cl | C11H9Cl3F3NO3
